US07910592B2
Methyl 3′-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-isopropenylpyridin-3-yl]-4′-methoxy-2-methylbiphenyl-4-carboxylate (131 mg, 0.189 mmol) and a catalytic amount of palladium on carbon and CH3OH (5 mL) were stirred vigorously under a balloon atmosphere of hydrogen for 1 h and 20 min at 20° C. The reaction mixture was filtered then the filtrate was concentrated in vacuo to afford methyl 3′-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-isopropylpyridin-3-yl]-4′-methoxy-2-methylbiphenyl-4-carboxylate, as a light yellow glass. LCMS calc.=700.24; found=701.29 (M+1).

reactant | Methyl 3′-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-isopropenylpyridin-3-yl]-4′-methoxy-2-methylbiphenyl-4-carboxylate | 0.189 mmol, 131 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)OC)C)C(=C)C)C)(F)F | C37H32F6N2O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | CH3OH | 5 mL | CO | CH4O
product | methyl 3′-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-isopropylpyridin-3-yl]-4′-methoxy-2-methylbiphenyl-4-carboxylate | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)OC)C)C(C)C)C)(F)F | C37H34F6N2O5
